US08071588B2
A solution of 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid (600 mg, 1.541 mmol), 1-(3-bromo-4-chlorophenyl)methanamine (397 mg, 1.8 mmol), HATU (760 mg, 2.0 mmol), and triethylamine (0.488 ml, 3.5 mmol) in 25 mL of DCM was stirred at room temperature overnight. The reaction mixture was diluted with DCM, washed with saturated NaHCO3, water and saturated NaCl. The organic layer was dried over Na2SO4 and evaporated to a pale amber residue. This was purified on 80 g. Combi-Flash column with DCM [0-8% MeOH] to give N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide. LC-MS m/z 591.2 (M+H)+, 0.84 min (ret time).

reactant | 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid | 1.541 mmol, 600 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)O)=O)CC | C19H27N5O4
reactant | 1-(3-bromo-4-chlorophenyl)methanamine | 1.8 mmol, 397 mg | BrC=1C=C(C=CC1Cl)CN | C7H7BrClN
reactant | HATU | 2.0 mmol, 760 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 3.5 mmol, 0.488 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | N-[(3-bromo-4-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | BrC=1C=C(C=CC1Cl)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C26H32BrClN6O3
